US08633313B2
To a stirred solution of methyl 3-aminopicolinate (1.8 mL, 13.80 mmol) in dichloroethane (60 mL) was added ethyl 3-chloro-3-oxopropanoate (2.08 g, 13.80 mmol). The reaction was heated at reflux for 45 min. After this time the reaction was cooled to rt and partitioned between DCM (60 mL) and NaHCO3 (satd aq. solution, 30 mL). The separated aq. layer was extracted with DCM (40 mL) and the combined organic layer were washed with brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo to give methyl 3-(3-ethoxy-3-oxopropanamido)picolinate: LC-MS (ESI) m/z 267.1 [M+H]+.

reactant | methyl 3-aminopicolinate | 13.80 mmol, 1.8 mL | NC=1C(=NC=CC1)C(=O)OC | C7H8N2O2
reactant | ethyl 3-chloro-3-oxopropanoate | 13.80 mmol, 2.08 g | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | dichloroethane | 60 mL | ClC(C)Cl | C2H4Cl2
product | methyl 3-(3-ethoxy-3-oxopropanamido)picolinate | C(C)OC(CC(=O)NC=1C(=NC=CC1)C(=O)OC)=O | C12H14N2O5
